US07645752B2
Step 1: Preparation of methyl methyl{2-[2-methyl-3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}carbamate
The title compound was prepared in substantially the same manner as described in Example 1, step 3 starting from methyl (2-{4-amino-3-[(phenylsulfonyl)methyl]phenyl}ethyl)methylcarbamate (160 mg, 0.44 mmol), and triethyl ortho acetate, and was obtained as a white solid. Mp: 188-191° C., MS (+) 387 (M+H).

reactant | methyl (2-{4-amino-3-[(phenylsulfonyl)methyl]phenyl}ethyl)methylcarbamate | 0.44 mmol, 160 mg | NC1=C(C=C(C=C1)CCN(C(OC)=O)C)CS(=O)(=O)C1=CC=CC=C1 | C18H22N2O4S
reactant | triethyl ortho acetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | methyl methyl{2-[2-methyl-3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}carbamate | CN(C(OC)=O)CCC=1C=C2C(=C(NC2=CC1)C)S(=O)(=O)C1=CC=CC=C1 | C20H22N2O4S
